US08420823B2
(Step 1) Production of ethyl 3-(cyclohexylthio)benzoate
Ethyl 3-iodobenzoate (5.00 g) was dissolve din dioxane (100 mL), and cyclohexanethiol (2.32 mL), N,N-diisopropylethylamine (6.29 mL), Xantphos (2.09 g) and Pd2(dba)3 (1.66 g) were added thereto in that order, and stirred in a nitrogen atmosphere at 100° C. for 7 hours. After left cooled, ethyl acetate was added to it, then washed with water ad saturated brine in that order, and dried with sodium sulfate. The drying agent was removed through filtration, the solvent was evaporated off under reduced pressure, and the residue was purified through silica gel column chromatography (ethyl acetate/hexane=from 0% to 25%, gradient) to give the intended compound (5.11 g) as an orange oil.

reactant | Ethyl 3-iodobenzoate | 5.00 g | IC=1C=C(C(=O)OCC)C=CC1 | C9H9IO2
reactant | cyclohexanethiol | 2.32 mL | C1(CCCCC1)S | C6H12S
reactant | N,N-diisopropylethylamine | 6.29 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Xantphos | 2.09 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd2(dba)3 | 1.66 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(cyclohexylthio)benzoate | 5.11 g | C1(CCCCC1)SC=1C=C(C(=O)OCC)C=CC1 | C15H20O2S
